US06211189B1
(±)-(R*S*)-4′-Amino-10-chloro-5′-fluoro-1,3,4,10b-tetrahydrospiro[pyrido[2,1-a]isoindole-2,2′(1′H)-quinazoline]-6-one
The compounds of Examples 15 and 16 were prepared from 2-amino-6-fluorobenzamidine dihydrochloride and 7,8-dichloro-1,3,4,10b-tetrahydropyrido[2,1-a]isoindole-2,6-dione (Preparation 5).

reactant | 2-amino-6-fluorobenzamidine dihydrochloride | Cl.Cl.NC1=C(C(=N)N)C(=CC=C1)F
reactant | 7,8-dichloro-1,3,4,10b-tetrahydropyrido[2,1-a]isoindole-2,6-dione | ClC1=C2C(N3C(C2=CC=C1Cl)CC(CC3)=O)=O | C12H9Cl2NO2
product | 4′-Amino-10-chloro-5′-fluoro-1,3,4,10b-tetrahydrospiro[pyrido[2,1-a]isoindole-2,2′(1′H)-quinazoline]-6-one | NC1=NC2(NC3=CC=CC(=C13)F)CC1N(C(C3=CC=CC(=C13)Cl)=O)CC2 | C19H16ClFN4O
